US04130652
12.7 g (0.1 mole) of 2-ethoxy-3,4,5,6-tetrahydropyridine and 24.4 g (0.15 mole) of 1-phenyl-1,3-butanedione are mixed and heated together in a nitrogen atmosphere, with stirring, for 32 hours in an oil bath at 100°. The reaction mixture is cooled, and subsequently chromatographed on silica gel with an ethyl acetate/hexane mixture as the eluant. The main fractions are combined and crystallised from ether to obtain 1-phenyl-2-(2-piperidinylidene)-1,3-butanedione in the form of yellow crystals, m.p. 80°-81°.

reactant | 2-ethoxy-3,4,5,6-tetrahydropyridine | 0.1 mole, 12.7 g | C(C)OC1=NCCCC1 | C7H13NO
reactant | 1-phenyl-1,3-butanedione | 0.15 mole, 24.4 g | C1(=CC=CC=C1)C(CC(C)=O)=O | C10H10O2
product | 1-phenyl-2-(2-piperidinylidene)-1,3-butanedione | C1(=CC=CC=C1)C(C(C(C)=O)=C1NCCCC1)=O | C15H17NO2
